US05521311
To 71 ml of an acetic acid solution containing 14.0 g of N-(5-chloroacetylamino-2-phenoxyphenyl)methanesulfonamide was added 4.4 g of 60% nitric acid with heating at 90° C. with stirring, followed by stirring for 20 minutes. Water was added to the reaction solution of which temperature was allowed to return to room temperature. The precipitate was collected by filtration and recrystallized from ethanol-n-hexane to give 9.3 g of N-(5-chloroacetylamino-4-nitro-2-phenoxyphenyl)methanesulfonamide as yellow needles.

reactant | acetic acid | 71 ml | C(C)(=O)O | C2H4O2
reactant | N-(5-chloroacetylamino-2-phenoxyphenyl)methanesulfonamide | 14.0 g | ClCC(=O)NC=1C=CC(=C(C1)NS(=O)(=O)C)OC1=CC=CC=C1 | C15H15ClN2O4S
reactant | nitric acid | 4.4 g | [N+](=O)(O)[O-] | HNO3
solvent | Water | O | H2O
product | N-(5-chloroacetylamino-4-nitro-2-phenoxyphenyl)methanesulfonamide | 9.3 g | ClCC(=O)NC=1C(=CC(=C(C1)NS(=O)(=O)C)OC1=CC=CC=C1)[N+](=O)[O-] | C15H14ClN3O6S
